US05464811
A solution of methyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate (1.53 g, 6.98 mmol) synthesized by the process described in Reference Example 8, 2-methylcyclopentyl p-toluenesulfonate (1.78 g, 6.99 mmol) and N,N-dimethylformamide (15 ml) was charged into a 50 cc round-bottom flask, and then potassium hydroxide (400 mg, 7.15 mmol) in a powder form was added thereto, followed by stirring for 7 hours while heating on an oil bath at 80 to 100° C. After completion of the reaction, the reaction solution was cooled to room temperature, 2N hydrochloric acid (50 ml) was added thereto, and the mixture was extracted with ethyl acetate (20 ml×8). The organic layers were combined, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off under reduced pressure to obtain a crude product (1.51 g). The product was purified by silica gel column chromatography (development solvent: hexane/ethyl acetate=17/3) to obtain 2-fluoro-4-chloro-5-(2-methylcyclopentyl)oxyaniline as a colorless oily substance (668 mg, 2.73 mmol, 40% yield).

reactant | methyl N-(2-fluoro-4-chloro-5-hydroxyphenyl)carbamate | 6.98 mmol, 1.53 g | FC1=C(C=C(C(=C1)Cl)O)NC(OC)=O | C8H7ClFNO3
reactant | 2-methylcyclopentyl p-toluenesulfonate | 6.99 mmol, 1.78 g | C1(=CC=C(C=C1)S(=O)(=O)OC1C(CCC1)C)C | C13H18O3S
reactant | potassium hydroxide | 7.15 mmol, 400 mg | [OH-].[K+]
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-4-chloro-5-(2-methylcyclopentyl)oxyaniline | 40% yield | FC1=C(N)C=C(C(=C1)Cl)OC1C(CCC1)C | C12H15ClFNO
